US05760035
In a similar manner to Example 28, n-butyllithium (25.2 ml, 2.5M solution in hexanes) was added to a suspension of (2-dimethylaminoethyl)triphenylphosphonium bromide (28.7 g) in dry THF (200 ml). This mixture was then treated with a solution of 1-(3-phenoxypropyl)-4-piperidone (14.7 g) in THF (20 ml). The oil obtained after work up (6.24 g) was hydrogenated in IMS at 1 atmosphere over 10% palladium charcoal over 16 hours. The catalyst was removed by filtration. The filtrate was evaporated and the residue was dissolved in petroleum ether, b.p. 60°-80° C. The solution was dried and evaporated to give an oil which was dissolved in ether and acidified with ethereal hydrogen chloride to yield a precipitate. The precipitate was collected by filtration and recrystallised from IMS to give 4-(2-dimethylaminoethyl)-1-(3-phenoxypropyl)piperidine dihydrochloride, m.p. 294°-295° C.

reactant | n-butyllithium | 2.5M, 25.2 ml | C(CCC)[Li]
reactant | (2-dimethylaminoethyl)triphenylphosphonium bromide | 28.7 g | [Br-].CN(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | 1-(3-phenoxypropyl)-4-piperidone | 14.7 g | O(C1=CC=CC=C1)CCCN1CCC(CC1)=O | C14H19NO2
reactant | hydrogen chloride | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
catalyst | palladium charcoal | [Pd] | Pd
product | 4-(2-dimethylaminoethyl)-1-(3-phenoxypropyl)piperidine dihydrochloride | Cl.Cl.CN(CCC1CCN(CC1)CCCOC1=CC=CC=C1)C | InChI=1S/C18H30N2O.2ClH/c1-19(2)13-9-17-10-14-20(15-11-17)12-6-16-21-18-7-4-3-5-8-18;;/h3-5,7-8,17H,6,9-16H2,1-2H3;2*1H
